US04812483
A solution of 1,1-dihydroxymethylcyclopropane (3 g) in tetrahydrofuran (20 cm3) was added dropwise to a suspension of sodium hydride (0.35 g) in tetrahydrofuran (30 cm3). After effervescence has ceased, tetrabutylammonium iodide (1 g) was added to the grey suspension followed by a solution of 3-phenoxybenzyl bromide (3.88 g) in tetrahydrofuran (15 cm3) at the ambient temperature and the mixture stirred for a further 2 hours. The mixture was poured into water and extracted with ethylacetate. The extracts were combined, dried over magnesium sulphate and concentrated by evaporation of the solvent, and the residual oil purified by column chromatography using a silica gel column eluting first with dichloromethane, followed then by ethylacetate, to give 1-hydroxymethyl-1-(3-phenoxybenzyloxymethyl)cyclopropane (1.7 g).

reactant | 1,1-dihydroxymethylcyclopropane | 3 g | OCC1(CC1)CO | C5H10O2
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | 3-phenoxybenzyl bromide | 3.88 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-1-(3-phenoxybenzyloxymethyl)cyclopropane | 1.7 g | OCC1(CC1)COCC1=CC(=CC=C1)OC1=CC=CC=C1 | C18H20O3
